US07138425B2
b) 2-(3-Amino-6-propylaminophenyl)-5-(2-benzothiophenyl)benzoxazole
Prepared by the method of Example 47b), from 2-(3-nitro-6-propylaminophenyl)-5-(2-benzothiophenyl)benzoxazole (386 mg, 0.90 mmol) and zinc (589 mg, 9.0 mmol) the subtitle compound was obtained (154 mg, 100%). MS 400.3 m/z (M+H)+.

reactant | 2-(3-nitro-6-propylaminophenyl)-5-(2-benzothiophenyl)benzoxazole | 0.90 mmol, 386 mg | [N+](=O)([O-])C=1C=C(C(=CC1)NCCC)C=1OC2=C(N1)C=C(C=C2)C=2SC1=C(C2)C=CC=C1 | C24H19N3O3S
catalyst | zinc | 9.0 mmol, 589 mg | [Zn] | Zn
product | 2-(3-Amino-6-propylaminophenyl)-5-(2-benzothiophenyl)benzoxazole | NC=1C=C(C(=CC1)NCCC)C=1OC2=C(N1)C=C(C=C2)C=2SC1=C(C2)C=CC=C1 | C24H21N3OS
